US08957064B2
2-{1-[4-(6-Phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzyl]-piperidin-4-yl}-3H-benzimidazole-5-carbonitrile
150 mg (0.5 mmol) 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde described in example 1 and 136 mg (0.6 mmol) 2-piperidine-4-yl-3H-benzimidazole-5-carbonitrile hydrochloride salt were reacted and purified as described in example 6.0. 199 mg of the desired compound were obtained.

reactant | 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | 0.5 mmol, 150 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | 2-piperidine-4-yl-3H-benzimidazole-5-carbonitrile hydrochloride salt | 0.6 mmol, 136 mg | Cl.N1CCC(CC1)C=1NC2=C(N1)C=CC(=C2)C#N
product | 2-{1-[4-(6-Phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzyl]-piperidin-4-yl}-3H-benzimidazole-5-carbonitrile | 199 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(CN1CCC(CC1)C=1NC3=C(N1)C=CC(=C3)C#N)C=C2 | C32H27N7
